US08614327B2
To a solution of 1-(benzyloxy)-2-cyclohexyl-5-nitro-4-(trifluoromethyl)benzene (250 mg, 0.66 mmol) and NiCl2 (170 mg, 1.31 mmol) in methanol (2.5 mL) was added NaBH4 (50 mg, 1.32 mmol) portionwise at 0° C. The reaction mixture turned black after 5 minutes. The reaction mixture was quenched with NaHCO3 and diluted with EtOAc. The reaction mixture was filtered through a plug of celite, the layers were separated and the aqueous layer was extracted with EtOAc. The combined organic layer was dried over Na2SO4, filtered and concentrated. The residue was then purified by silica gel column chromatography using 10% EtOAc/hexane gradient to give 5-benzyloxy-4-cyclohexyl-2-(trifluoromethyl)aniline (150 mg, 65%). LC/MS: m/z 350.3 (M+H)+ at 2.40 min (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)).

reactant | 1-(benzyloxy)-2-cyclohexyl-5-nitro-4-(trifluoromethyl)benzene | 0.66 mmol, 250 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)[N+](=O)[O-])C(F)(F)F)C1CCCCC1 | C20H20F3NO3
reactant | NaBH4 | 1.32 mmol, 50 mg | [BH4-].[Na+]
solvent | methanol | 2.5 mL | CO | CH4O
catalyst | NiCl2 | 1.31 mmol, 170 mg | Cl[Ni]Cl
product | 5-benzyloxy-4-cyclohexyl-2-(trifluoromethyl)aniline | 150 mg, 65% | C(C1=CC=CC=C1)OC=1C(=CC(=C(N)C1)C(F)(F)F)C1CCCCC1 | C20H22F3NO
